US05104876
E. N-(1,1-DIMETHYLETHYL)-3-[3-(4-FLUOROPHENYL)PROPYL]-5-METHYL-2-PYRIDINE CARBOXAMIDE
Cool a solution of N-(1,1-dimethylethyl)-3-methyl-2-pyridinecarboxamide in dry THF to -40° C. and add 2 equivalents of n-butyl lithium. Add a large excess of sodium bromide and stir for 15 minutes. Add 1 eq. of 4-fluorophenethyl chloride and stir for 2.5 hours while warming to -5° C. Quench the reaction with water and extract the product twice with ethyl acetate, then wash with brine (2X). Dry the organic phase over Na2SO4, filter and remove the solvent to produce the title compound.

reactant | N-(1,1-dimethylethyl)-3-methyl-2-pyridinecarboxamide | CC(C)(C)NC(=O)C1=NC=CC=C1C | C11H16N2O
reactant | n-butyl lithium | 2 equivalents | C(CCC)[Li]
reactant | sodium bromide | [Br-].[Na+]
reactant | 4-fluorophenethyl chloride | 1 eq. | FC1=CC=C(CCCl)C=C1 | C8H8ClF
solvent | THF | C1CCOC1 | C4H8O
product | N-(1,1-DIMETHYLETHYL)-3-[3-(4-FLUOROPHENYL)PROPYL]-5-METHYL-2-PYRIDINE CARBOXAMIDE | CC(C)(C)NC(=O)C1=NC=C(C=C1CCCC1=CC=C(C=C1)F)C | C20H25FN2O
